US09212165B2
Step 4: tert-Butyl 3-ethynyl-1-adamantylcarbamate
To a solution of tert-butyl-3-formyl-1-adamantylcarbamate (600 mg, 2.1 mmol) and K2CO3 (590 mg, 4.2 mmol) in methanol (60 mL) under N2 atmosphere was added dimethyl (1-diazo-2-oxopropyl)phosphonate (490 mg, 2.5 mmol). After stirring at room temperature for three hours the clear reaction solution was partitioned between ethyl acetate (100 mL) and 5% NaHCO3 (100 mL) and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford 600 mg (100%) of the title compound, tert-butyl 3-ethynyl-1-adamantylcarbamate as a colorless oil. ESI-MS m/z: 220 (M-55)+.

reactant | tert-butyl-3-formyl-1-adamantylcarbamate | 2.1 mmol, 600 mg | C(C)(C)(C)OC(NC12CC3(CC(CC(C1)C3)C2)C=O)=O | C16H25NO3
reactant | K2CO3 | 4.2 mmol, 590 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl (1-diazo-2-oxopropyl)phosphonate | 2.5 mmol, 490 mg | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
solvent | methanol | 60 mL | CO | CH4O
product | tert-Butyl 3-ethynyl-1-adamantylcarbamate | 600 mg, 100% | C(#C)C12CC3(CC(CC(C1)C3)C2)NC(OC(C)(C)C)=O | C17H25NO2
